* source 3
X_U1         N00784 N00352 N000032 N000033 N00472 LM741
V_V1         N000032 0 9
C_C1         N00352 N00472  100n  
V_V2         0 N000033 9
V_V3         N00649 0  
+SIN 0 2 20 0 0 0
R_R1         N00352 N00472  10k  
R_R2         0 N00784  10k  
R_R3         N00649 N00352  10k  
